US05691349
Further elution with the above eluent gave a mixture of E- Z-3-[2-(4-butoxyphenyl)vinyl]quinuclidine (600 mg), followed by pure E-3-[2-(4-butoxyphenyl)vinyl]quinuclidine (Rf=0.19) which was converted to its hydrochloride salt using a solution of hydrogen chloride in ether as described above to give E-3-[2-(4-butoxyphenyl)vinyl]-quinuclidine hydrochloride (120 mg), m.p. 235°-238° C.; microanalysis, found: C, 69.0; H, 8.5; N, 4.1% C19H27NO.HCl.0.5H2O requires: C, 68.98; H, 8.77; N, 4.25%; NMR (DMSO-d6): 0.89-0.97(3H, t), 1.3-1.52(2H, m), 1.62-1.8(3H, m), 1.82-2.1(5H, m), 2.75-2.92(1H, m), 2.98-3.52(5H, m), 3.91-4.01(2H, 6.2-6.34(1H, d of d), 6.41-6.55(1H, d, J=15.98 Hertz), 6.82-6.93(2H, d) and 7.31-7.41 (2H, d); m/Z 286 (M+H).

reactant | E-3-[2-(4-butoxyphenyl)vinyl]quinuclidine | C(CCC)OC1=CC=C(C=C1)/C=C/C1CN2CCC1CC2 | C19H27NO
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | E-3-[2-(4-butoxyphenyl)vinyl]-quinuclidine hydrochloride | 120 mg | Cl.C(CCC)OC1=CC=C(C=C1)/C=C/C1CN2CCC1CC2 | InChI=1S/C19H27NO.ClH/c1-2-3-14-21-19-8-5-16(6-9-19)4-7-18-15-20-12-10-17(18)11-13-20;/h4-9,17-18H,2-3,10-15H2,1H3;1H/b7-4+;
